US09353060B2
A magnetically stirred mixture of 2-(furan-2-yl)-2-oxoacetic acid (5.0 g, 35.7 mmol), O-methylhydroxylamine hydrochloride (5.96 g, 71.4 mmol) and Na2CO3 (15.13 g, 143 mmol) in 100 mL of MeOH was refluxed for 2 hr. The reaction mixture was cooled to room temperature and concentrated HCl was added slowly until a pH of 2-3 was obtained. Most of the solvent was removed on the rotary evaporator and the residue was diluted with 50 mL of water and 100 mL of ether. Concentrated HCl was again added to give a pH of 2-3. The aqueous layer was extracted with 2×50 mL of ether. The combined organic layers were washed with 50 mL of a saturated solution of NaCl, dried (MgSO4) and solvent removed to give 6.58 g of crude 2-(furan-2-yl)-2-(methoxyimino)acetic acid as a viscous oil (crystals formed upon standing).

reactant | 2-(furan-2-yl)-2-oxoacetic acid | 35.7 mmol, 5.0 g | O1C(=CC=C1)C(C(=O)O)=O | C6H4O4
reactant | O-methylhydroxylamine hydrochloride | 71.4 mmol, 5.96 g | Cl.CON
reactant | Na2CO3 | 143 mmol, 15.13 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
product | 2-(furan-2-yl)-2-(methoxyimino)acetic acid | 6.58 g | O1C(=CC=C1)C(C(=O)O)=NOC | C7H7NO4
